US04486438
A solution of 39.4 g of 2-fluoroaniline in 32.4 ml of concentrated hydrochloric acid and 215 ml of water and then a solution of 77.6 g of hydroxylamine hydrochloride in 355 ml of water were added to a mixture of 886 g of sodium sulfate hydrated with 10 moles of water, 64.55 g of chloral hydrate and 850 ml of water and the mixture was heated to reflux with stirring over 45 minutes and reflux was maintained for 5 minutes. The mixture was cooled to 25° C. and held there for 45 minutes. The product was washed with water and dried at room temperature and then at 70° C. under reduced pressure to obtain 56.8 g of N-(2-fluorophenyl)-2-hydroxyimino-acetamide melting at 120° C.

reactant | 2-fluoroaniline | 39.4 g | FC1=C(N)C=CC=C1 | C6H6FN
reactant | hydroxylamine hydrochloride | 77.6 g | Cl.NO
reactant | sodium sulfate | 886 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | chloral hydrate | 64.55 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
solvent | hydrochloric acid | 32.4 ml | Cl | ClH
solvent | water | 215 ml | O | H2O
solvent | water | 355 ml | O | H2O
solvent | water | 850 ml | O | H2O
solvent | water | 10 moles | O | H2O
product | N-(2-fluorophenyl)-2-hydroxyimino-acetamide | 56.8 g | FC1=C(C=CC=C1)NC(C=NO)=O | C8H7FN2O2
